Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo F w/ DM, ESRD on HD (___), presents with acute onset F/C 
with T > 102 at dialysis yesterday. Patient was recently 
discharged with fever ___ right ___ cellulitis and discharged to 
be on both Ceftaz and Vanc, both to be dosed at HD.  
.  
She reports that she still isn't feeling well since her DC in 
___. She continues to have intermittent chills, without 
fevers and also continues to have nausea and daily vomiting, 
initially attributed to gastroenteritis. She also reports that 
she's been having nonbloody diarrhea for the past 2 days 
associated with preceeding cramping, that is then relieved with 
a BM. With regards to her RLE cellulitis, she reports that it's 
gotten better and has decreased in size. She reports that it's 
nontender. She denies any CP or SOB associated with her RLE 
swelling. She is currently smoking.  
.  
Of note she was recently admitted ___ and noted to 
have fevers and cellulitis requiring MICU stay. Patient was 
initially treated with vanc ans zozyn, and then discharged to be 
given vanc and ceftaz at HD.  
.  
In the ED, here Temp was initially 103 and after Tylenol and 
flagyl is was 100.4. She was also given a dose of vancomycin for 
a subtherapeutic level (13.9) prior to arrival to the floor.  
.  
On the floor, the patient is afebrile and continues to have 
diahrrea.  

 
Past Medical History:
IDDM2 (dx ___ yrs ago), mult admissions for uncontrolled DM  
ESRD on hemodialysis (M, W, F)  
HTN  
Hypercholestolemia  
 
Social History:
___
Family History:
father died of etoh-induced cirrhosis ___ y/o  
mother died of pna at ___ y/o  
grandmother had DM  
5 siblings w/o DM  

 
Physical Exam:
Vitals - T:100.7 98.0 150/78 82 20 98%2L ___ 135  
GENERAL: laying in bed, NAD  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
HEENT: AT/NC, EOMI, PERRLA, anicteric sclera, pale conjunctiva, 
patent nares, dry MM, good dentition, supple neck, no LAD, no 
JVD  
CARDIAC: RRR, S1/S2, no mrg  
LUNG: CTAB  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
M/S: obvious old fracture of L ankle, R>L swelling w/ 
right-sided slight erythema and healing scaled on RLE, 1+ 
pitting edema in RLE, nontender to palpation in either ___, 1+ 
bipedal edema, moving all extremities well  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  

 
Pertinent Results:
___ 06:30PM BLOOD WBC-13.2*# RBC-3.74* Hgb-9.1* Hct-29.4* 
MCV-79* MCH-24.4* MCHC-31.1 RDW-17.6* Plt ___
___ 04:35AM BLOOD WBC-8.1 RBC-3.15* Hgb-7.4* Hct-24.3* 
MCV-77* MCH-23.5* MCHC-30.6* RDW-18.2* Plt ___
___ 06:30PM BLOOD Neuts-81* Bands-3 Lymphs-14* Monos-2 
Eos-0 Baso-0 ___ Myelos-0
___ 05:35AM BLOOD ___ PTT-28.5 ___
___ 06:30PM BLOOD Glucose-64* UreaN-7 Creat-2.6*# Na-133 
K-7.5* Cl-93* HCO3-32 AnGap-16
___ 04:35AM BLOOD Glucose-85 UreaN-15 Creat-4.6*# Na-135 
K-3.8 Cl-97 HCO3-30 AnGap-12
___ 05:35AM BLOOD Calcium-7.5* Phos-2.4* Mg-1.7
___ 04:25AM BLOOD calTIBC-117* Ferritn-1128* TRF-90*
___ 04:25AM BLOOD Albumin-2.3* Calcium-8.1* Phos-3.6 Mg-1.8 
Iron-29*
.
___ 12:19 am STOOL     CONSISTENCY: SOFT

                            **FINAL REPORT ___

   CLOSTRIDIUM DIFFICILE TOXIN ASSAY (Final ___: 
      REPORTED BY PHONE TO ___ ON ___ AT 0730. 
      CLOSTRIDIUM DIFFICILE. 
         FECES POSITIVE FOR C. DIFFICILE TOXIN BY EIA. 
           (Reference Range-Negative). 
         A positive result in a recently treated patient is of 
uncertain
         significance unless the patient is currently 
symptomatic
         (relapse). 

.
UNILAT LOWER EXT VEINS RIGHT  ___ 7:51 AM

UNILAT LOWER EXT VEINS RIGHT

Reason: assess for DVT 

UNDERLYING MEDICAL CONDITION:
___ year old woman with ___ swelling and fevers 
REASON FOR THIS EXAMINATION:
assess for DVT 
HISTORY: ___ female with lower extremity swelling and 
fevers. Please assess for DVT.

FINDINGS: Grayscale, color and pulse wave Doppler sonograms were 
performed on the right common femoral, superficial femoral, and 
popliteal veins. Normal flow, compressibility, waveforms and 
augmentation is demonstrated. No intraluminal thrombus is 
identified. Prominent lymph nodes are again identified within 
the right groin, not significantly changed from prior ultrasound 
of ___.

IMPRESSION: No evidence of DVT in the right lower extremity. 
Unchanged right inguinal lymph nodes.
.
CHEST (PORTABLE AP)  ___ 7:57 ___

CHEST (PORTABLE AP)

Reason: ___ year old woman with fever; please evaluate for PNA. 

UNDERLYING MEDICAL CONDITION:
___ year old woman with fever; please evaluate for PNA. 
REASON FOR THIS EXAMINATION:
___ year old woman with fever; please evaluate for PNA. 
INDICATION: ___ woman with fever. Please evaluate for 
pneumonia.

Comparison is made to the prior study of ___.

AP UPRIGHT RADIOGRAPH OF THE CHEST: There are low lung volumes 
bilaterally and there is elevated right hemidiaphragm. The 
cardiac silhouette is moderately enlarged and the pulmonary 
vascular congestion is unchanged. No focal consolidation, 
pleural effusion or pneumothorax is visualized. The osseous 
structures of the thorax appear normal.

IMPRESSION: No acute intrathoracic pathology including no 
pneumonia.

 
Brief Hospital Course:
___ ESRD on HD, recently discharged and currently taking 
Vancomycin +/- Ceftazidime for RLE cellulitis, sent from HD with 
fevers & chills, c.diff positive stool.  
.   
#:Fevers:Patient has been on antibiotics for cellulitis for over 
two weeks. She developed recent onset of diahhrea which was 
found to be C.Diff +. She was started on flagyl and her fever 
resolved by the following morning.  her diahrrea resolved within 
two days. She was instructed to continue flagyl for a week after 
her vancomycin and ceftazidime were discontinued.
.  
#. Cellulitis: The patient's leg was still erythemetous, 
swollen, and warm. The patient reported her leg is much improved 
after two weeks of vancomycin and ceftazidime. DVT was not 
detected on LENIS.  She was discharged with instructions to 
continue antibiotics for one more week, and to follow-up with 
her PCP later in the week.  
.  
#. ESRD: The patient underwent her scheduled hemodialysis 
sessions. her antibiotics were dosed at hemodialysis.  
Nephrocaps were added.   

 
Medications on Admission:
Insulin NPH 30 Units qAM  
Amlodipine 10mg PO DAILY  
Clonidine 0.2 mg/24 hr Patch ___  
Metoprolol 25 qd  
Pravastatin 20 mg PO DAILY  
Aspirin 325 mg PO DAILY  
Sevelamer 800 mg PO TID  
B-Complex with Vitamin C 1 tab po qday  
Folic Acid 1 mg PO DAILY  
Sodium Bicarbonate 650 mg PO DAILY  
Ascorbic Acid ___ mg PO DAILY  
Famotidine 20mg PO DAILY PRN  
Docusate Sodium 100 mg po bid  

 
Discharge Medications:
1. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day) for 3 weeks: To be continued for 2 weeks after last 
antibiotic is discontinued.
Disp:*90 Tablet(s)* Refills:*0*
2. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

3. Clonidine 0.2 mg/24 hr Patch Weekly Sig: One (1) Patch Weekly 
Transdermal QMON (every ___.  
4. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
5. Pravastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
6. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
7. Ascorbic Acid ___ mg Tablet, Chewable Sig: Two (2) Tablet, 
Chewable PO DAILY (Daily).  
8. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

9. Famotidine 20 mg Tablet Sig: One (1) Tablet PO once a day.  
10. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day.  
11. B Complex-Vitamin C-Folic Acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily) for 1 months.
Disp:*30 Cap(s)* Refills:*0*
12. Vancomycin
per level, to be dosed at dialysis, for 1 additional week
13. Ceftazidime
1g IV at dialysis for 1 additional week
14. Insulin
NPH 30 units qam, in addition to sliding scale.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
C.Difficile Colitis
.
Secondary
Cellulitis
ESRD

 
Discharge Condition:
Good
98.6 132/68 132/65  65 20 96%RA

 
Discharge Instructions:
You were admitted to the hospital with fever. You were found to 
have an infection of your colon, which is believed to be causing 
your fever. You will be sent home on a course of antibiotics to 
treat this infection. 
.
please start taking Flagyl. You should continue taking this 
medication  until two weeks after discontinuation of vancomycin 
and ceftazidime. Please follow up with your PCP this week to 
decide when to discontinue these two antibiotics.
.
Please return to the hospital or call your doctor if you 
experience chest pain, shortness of breath, bleeding, worsening 
diahrrea, or fever
 
Followup Instructions:
___